US07417060B2
To a solution of (1R)-2-[[2-(4-iodophenoxy)ethyl]-amino]-1-(4-nitrophenyl)ethanol (7.52 g) in tetrahydrofuran (75 ml) was added di-tert-butyl dicarbonate (4.44 ml) and the mixture was stirred for 16 hours. The solvent was removed by evaporation and the residue was chromatographed on silica gel (eluent: hexane/ethyl acetate) to give tert-butyl [(2R)-2-hydroxy-2-(4-nitrophenyl)ethyl][2-(4-iodophenoxy)ethyl]carbamate (3.48 g) as an orange paste.

reactant | (1R)-2-[[2-(4-iodophenoxy)ethyl]-amino]-1-(4-nitrophenyl)ethanol | 7.52 g | IC1=CC=C(OCCNC[C@H](O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C16H17IN2O4
reactant | di-tert-butyl dicarbonate | 4.44 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | tert-butyl [(2R)-2-hydroxy-2-(4-nitrophenyl)ethyl][2-(4-iodophenoxy)ethyl]carbamate | 3.48 g | O[C@@H](CN(C(OC(C)(C)C)=O)CCOC1=CC=C(C=C1)I)C1=CC=C(C=C1)[N+](=O)[O-] | C21H25IN2O6
